US04529732
N-Propyl-cis-2-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-4-piperidinol
Employing the procedure of Example 4, 535 mg (1.18 mmole) N-propyl-cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol and 212 mg 5% palladium on carbon (50% wet) gives 402 mg (94%) of the title compound as an oil.

reactant | N-propyl-cis-2-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]-4-piperidinol | 1.18 mmole, 535 mg | C(CC)N1[C@H](C[C@H](CC1)O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)OCC1=CC=CC=C1 | C30H45NO2
catalyst | palladium on carbon | 212 mg | [Pd] | Pd
product | N-Propyl-cis-2-[4-(1,1-dimethylheptyl)-2-hydroxyphenyl]-4-piperidinol | 402 mg, 94% | C(CC)N1[C@H](C[C@H](CC1)O)C1=C(C=C(C=C1)C(CCCCCC)(C)C)O | C23H39NO2
